US07592343B2
SYNTHESIS OF 6-[4-(3-TRIFLUOROMETHYLPYRIDIN-2-YL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure as described in Example 1, making variation only as required to use 1-(3-trifluoromethylpyridin-2-yl)piperazine to replace 1-(4-fluorophenyl)-piperazine to react with 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder in 43% yield (0.061 g). 1H NMR (300 MHz, CDCl3) δ 8.44 (m, 1H), 8.01 (m, 2H), 7.89 (m, 1H), 7.02 (s, 2H), 3.88 (m, 4H), 3.54 (m, 2H), 3.41 (m, 4H), 1.51 (m, 2H), 0.78 (m, 1H), 0.45 (m, 2H), 0.07 (m, 2H). MS (ES+) m/z 421 (M+1).

reactant | 1-(3-trifluoromethylpyridin-2-yl)piperazine | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | 1-(4-fluorophenyl)-piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
product | 6-[4-(3-TRIFLUOROMETHYLPYRIDIN-2-YL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | 43% yield | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C20H23F3N6O
